US04851526
4-[[1-[2-(4-Chlorophenyl)ethyl]piperidin-4-yl]methoxy]benzenamine
In a manner similar to Preparation 3, hydrogenate 1[2-(4-chlorophenyl)ethyl]-4-[(4-nitrophenoxy)methyl]piperidine in acetic acid and hydrochloric acid over palladium on carbon to obtain the title compound.

reactant | 1[2-(4-chlorophenyl)ethyl]-4-[(4-nitrophenoxy)methyl]piperidine | ClC1=CC=C(C=C1)CCN1CCC(CC1)COC1=CC=C(C=C1)[N+](=O)[O-] | C20H23ClN2O3
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | hydrochloric acid | Cl | ClH
catalyst | palladium on carbon | [Pd] | Pd
product | 4-[[1-[2-(4-Chlorophenyl)ethyl]piperidin-4-yl]methoxy]benzenamine | ClC1=CC=C(C=C1)CCN1CCC(CC1)COC1=CC=C(C=C1)N | C20H25ClN2O
